US07772245B2
A solution of (2E)-3-[5-(1,3,4,9-tetrahydro-2H-b-carbolin-2-ylmethyl)thien-2-yl]acrylic acid in DCM (2 mL) and DIEA (0.11 mL) was sequentially treated with HOBT (32 mg), EDCI (64 mg) and NH2OTHP (40 mg). After three hours, the solvent was evaporated and the residue purified by flash chromatography on silica gel eluting with EtOAc. (2E)-3-[5-(1,3,4,9-Tetrahydro-2H-b-carbolin-2-ylmethyl)thien-2-yl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide was obtained as a yellow oil (37 mg), m/e=438 (M+1).

reactant | (2E)-3-[5-(1,3,4,9-tetrahydro-2H-b-carbolin-2-ylmethyl)thien-2-yl]acrylic acid | C1N(CCC=2C3=CC=CC=C3NC12)CC1=CC=C(S1)/C=C/C(=O)O | C19H18N2O2S
reactant | HOBT | 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 64 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH2OTHP | 40 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DIEA | 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
product | (2E)-3-[5-(1,3,4,9-Tetrahydro-2H-b-carbolin-2-ylmethyl)thien-2-yl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | C1N(CCC=2C3=CC=CC=C3NC12)CC1=CC=C(S1)/C=C/C(=O)NOC1OCCCC1 | C24H27N3O3S
